US04875922
Preparation of 2,2,6,6-tetramethyl-4-(cyclopropylmethyl)-3,5-heptanedione.
To a solution of 2,2,6,6-tetramethyl-3,5-heptanedione (18.4 g) in ethanol (100 ml) was added potassium carbonate (20.7 g) followed by cyclopropylmethyl bromide (13.5 g). The mixture was heated at reflux for 16 hours. Potassium iodide (2 g) and further cyclopropylmethyl bromide (2 g) was added to the reaction mixture and reflux continued for a further 8 hours. The reaction mixture was cooled and concentrated in vacuo. To the residue was added water and the resultant mixture was extracted with ether. The ether extracts were washed with water and dried. Concentration in vacuo gave the product as an oil which was used without further purification.

reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 18.4 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 13.5 g | C1(CC1)CBr | C4H7Br
reactant | Potassium iodide | 2 g | [I-].[K+]
reactant | cyclopropylmethyl bromide | 2 g | C1(CC1)CBr | C4H7Br
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2,6,6-tetramethyl-4-(cyclopropylmethyl)-3,5-heptanedione | CC(C)(C(C(C(C(C)(C)C)=O)CC1CC1)=O)C | C15H26O2
